US06017919
1-(2-Hydroxy-5-methylphenyl)heptan-1-one (127 g, 0.61 mol), a 2.5N aqueous sodium hydroxide solution (250 ml) and ethanol (250 ml) were mixed, and this solution was cooled to 0° C. Dimethyl sulfate (60 ml) was added, and the mixture was refluxed under heating for 2 hours. Dimethyl sulfate (40 ml) and a 2.5N aqueous sodium hydroxide solution (170 ml) were further added, and the mixture was refluxed under heating for 2 hours. The reaction mature was concentrated under reduced pressure and the obtained residue was extracted twice with ether (200 ml). The organic layers were combined, washed twice with a 2.5N aqueous sodium hydroxide solution and saturated brine (100 ml1 each), and dried over anhydrous magnesium sulfate. The drying agent was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography (n-hexane/ethyl acetate=95/5) to give 1-(2-methoxy-5-methylphenyl)heptan-1-one (82 g, 57%) as a colorless oil.

reactant | 1-(2-Hydroxy-5-methylphenyl)heptan-1-one | 0.61 mol, 127 g | OC1=C(C=C(C=C1)C)C(CCCCCC)=O | C14H20O2
reactant | sodium hydroxide | 2.5N, 250 ml | [OH-].[Na+]
reactant | Dimethyl sulfate | 60 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | Dimethyl sulfate | 40 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium hydroxide | 2.5N, 170 ml | [OH-].[Na+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 1-(2-methoxy-5-methylphenyl)heptan-1-one | 82 g, 57% | COC1=C(C=C(C=C1)C)C(CCCCCC)=O | C15H22O2
